US04581356
A solution of sodium nitrite (3.6 g) in water (10 ml) was added dropwise to a solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (9.8 g), concentrated hydrochloric acid (10 ml) and water (30 ml) at 0° C. After stirring for 0.5 hours, a solution of stannous chloride dihydrate (43.12 g) in conc. hydrochloric acid (43 ml) was added thereto at 0° C. After stirring for 2 hours, the mixture was made alkaline with an aqueous solution of sodium hydroxide and the resultant precipitates were collected by filtration and washed with water. The crude product was dissolved in 10% hydrochloric acid under warming, and then allowed to stand at room temperature. The precipitates were collected by filtration and then dissolved in water. The aqueous solution was washed with ethyl acetate, treated with activated charcoal, and made alkaline with an aqueous solution of sodium hydroxide. The resultant precipitates were collected by filtration, washed with water, and recrystallized from 10% hydrochloric acid to give 6-(4-hydrazinophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one hydrochloride (3.2 g).

reactant | sodium nitrite | 3.6 g | N(=O)[O-].[Na+]
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 9.8 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 43 ml | Cl | ClH
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 6-(4-hydrazinophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one hydrochloride | 3.2 g | Cl.N(N)C1=CC=C(C=C1)C=1C(NC(NN1)=O)C | InChI=1S/C10H13N5O.ClH/c1-6-9(14-15-10(16)12-6)7-2-4-8(13-11)5-3-7;/h2-6,13H,11H2,1H3,(H2,12,15,16);1H
